US05171863
Reacting 3-(1-hydroxytridecyl)-2-triethylsilylfuran with diphenylphosphoryl azide and diethyl azidocarboxylate gives 3(1-azidotridecyl)-2-triethylsilylfuran. Reducing this intermediate with lithium aluminum hydride, followed by acetylation with acetic anhydide gives 3-(1-acetamido tridecyl)-2-triethylsilylfuran. Singlet oxygen oxidation of this amide, followed by reduction with sodium borohydride gives 3-(1-acetamidotridecyl)-2(5H)-furanone.

reactant | 3-(1-hydroxytridecyl)-2-triethylsilylfuran | OC(CCCCCCCCCCCC)C1=C(OC=C1)[Si](CC)(CC)CC | C23H44O2Si
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
product | 3(1-azidotridecyl)-2-triethylsilylfuran | N(=[N+]=[N-])C(CCCCCCCCCCCC)C1=C(OC=C1)[Si](CC)(CC)CC | C23H43N3OSi
